US07612075B2
B. 4-[2-(5-Chloro-thiophen-2-yl)-ethenesulfonyl]-5-(±)-hydroxymethyl-1-(1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-piperazin-2-one.
Trifluoroacetic acid (1.8 mL) is added to a solution of 2-{4-[2-(5-chloro-thiophen-2-yl)-ethenesulfonyl]-2-(±)-hydroxymethyl-6-oxo-piperazin-1-ylmethyl}-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester (0.04 g) in CH2Cl2 (4.2 mL) at RT. The reaction mixture is stirred for 4 h then concentrated in vacuo. The title compound is purified by RP-HPLC eluting in a gradient of 10% CH3CN/H2O (0.1% TFA) to 100% CH3CN and lyophilizing the appropriate product fractions. 1H NMR (DMSO-d6, 300 MHz) δ9.10 (s, 1H), 8.46 (d, 1H), 7.82 (d, 1H), 7.50 (d, 1H) 7.43 (d, 1H), 7.14 (d, 1H), 7.01 (d, 1H), 6.94 (s, 1H), 5.12 (bs, 1H), 4.80 (AB, 2H), 3.98 (d, 2H0, 3.90 (m, 1H), 3.40-3.50 (m, 4H). APCI MS, [M+H]+=467, 469.

reactant | Trifluoroacetic acid | 1.8 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-{4-[2-(5-chloro-thiophen-2-yl)-ethenesulfonyl]-2-(±)-hydroxymethyl-6-oxo-piperazin-1-ylmethyl}-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | 0.04 g | C(C)(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)CN2C(CN(CC2=O)S(=O)(=O)C=CC=2SC(=CC2)Cl)CO | C24H27ClN4O6S2
solvent | CH2Cl2 | 4.2 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(5-Chloro-thiophen-2-yl)-ethenesulfonyl]-5-(±)-hydroxymethyl-1-(1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-piperazin-2-one | ClC1=CC=C(S1)C=CS(=O)(=O)N1CC(N(CC1CO)CC1=CC=2C=NC=CC2N1)=O | C19H19ClN4O4S2
